2116-06-25 07:00:00 Physician Resident Progress Note
Chief Complaint:
   89 yo female who is Russian speaking with metastatic colon cancer who
   was found in the ED to have fevers and an obstructed biliary tree.
   Went to ERCP and was transferred to ICU afterwards due to tachycardia
   and concern re: sepsis.
   24 Hour Events:
   She has remained stable overnight.  Tachycardia resolved.  Patient not
   requiring fluid rehydration.  BP averaging around 100/60.  Fevers
   resolved with addition of broader spect abx (vanc/zosyn).  Patient has
   chronic anemia unclear if due to chronic blood loss or ACD.  Hct 21.5
   today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-25**] 01:00 AM
   Vancomycin - [**2116-6-25**] 02:04 AM
   Infusions:
   Other ICU medications:
   Outpatient medications:
   #.  Omeprazole 40mg [**Hospital1 **]
   #.  Atenolol 25mg [**Hospital1 **]
   #.  Isosorbide 60mg [**Hospital1 **]
   #.  Meclizine 12.5mg [**Hospital1 **]
   #.  Nifedipine 30mg daily
   #.  Atorvastatin 80mg daily
   #.  ASA 300mg PR daily
   #.  Docuaste 100mg [**Hospital1 **]
   #.  Magnesium oxide 400mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-25**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 78 (59 - 78) bpm
   BP: 115/67(80) {93/35(49) - 119/67(80)} mmHg
   RR: 18 (15 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                      4 mL
                                                                    369 mL
   PO:
             TF:
   IVF:
                                                                      4 mL
                                                                    369 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    400 mL
   Urine:
                                                                    250 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -247 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Gen: lying in bed NAD
   Lungs: CTA in all lung fields
   CV: RRR, S1 & s2 nl, no m/r/g
   ABD: + bs, mildly distended abdomen, non-tender, no rebound or
   guarding, no masses
   EXT: warm, 2+ radial pulses bilat, no c/c/e
   Labs / Radiology
   255 K/uL
   7.0 g/dL
   117 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   21 mg/dL
   109 mEq/L
   140 mEq/L
   21.5 %
   10.2 K/uL
        [image002.jpg]
                             [**2116-6-25**]  03:40 AM
   WBC
   10.2
   Hct
   21.5
   Plt
   255
   Cr
   0.8
   Glucose
   117
   Other labs: PT / PTT / INR:15.3/28.2/1.4, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Diff: N:92.3 Band:0 L:4.2 M:3.1 E:0.3 Bas:0.2
   ALT: 57
   AP: 902
   Tbili: 1.9
   Alb:
   AST: 75
   Lipase:26
   Morning LFTs pending.
   Assessment and Plan
   This is a 89 year-old female with a history of metastatic colon cancer
   who presents with cholangitis.
   .
   Plan:
   # Cholangitis
 patient did well overnight.  continue Vancomycin.  Got
   one dose of Zosyn last night.  Start Unasyn for GNR coverage.  No
   further fluid boluses required.
   - Continue to hold Anti-hypertensives.
   - Monitor WBC count and liver enzymes.
   - Serial abdominal exams
   - Follow-up culture data and tailor antibiotics appropriately.
   # anemia (chronic bleeding due to colon ca vs. ACD)
   -Hct 21.5  this am, recheck in afternoon.
   -cross & type sent
   .
   # FEN:  Advance diet as tolerated
   .
   # Access: Peripheral IV
   .
   # PPx:  Heparin SC
   .
   # Code:  Presumed full code
   .
   # Dispo:  Likely callout to floor if stable
   .
   # Comm:  With patient.  Daughter speaks [**Name2 (NI) 2234**] and planning to come in
   at 10am today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2116-6-25**] 02:15 AM
   20 Gauge - [**2116-6-25**] 04:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:          ICU CONSENT & BLOOD CONSENT NEEDS TO BE SIGNED.
   Code status: Full code
   Disposition:

2116-06-26 07:51:00 Physician Resident Progress Note
Chief Complaint: Cholangitis
   24 Hour Events:
 EKG
 vent bigeminy, unchanged from prior, K+ 3.6 repleted
 FEVER - 102.9
F - [**2116-6-25**] 02:00 PM
 Blood Cx sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-25**] 01:00 AM
   Vancomycin - [**2116-6-25**] 02:04 AM
   Ampicillin - [**2116-6-25**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt feels well, w/o complaint
   Flowsheet Data as of  [**2116-6-26**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 36.6
C (97.8
   HR: 60 (52 - 99) bpm
   BP: 128/44(61) {87/16(39) - 169/82(89)} mmHg
   RR: 14 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    760 mL
                                                                     78 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    640 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    300 mL
   Urine:
                                                                    710 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     50 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   GEN: Awake, alert, NAD
   CV: RRR nl S1S2 no m/r/g
   PULM: crackles to mid-chest bilat no wheeze
   ABD: soft NTND +BS no rebound, guarding
   EXT: warm, dry +PP no LE edema
   Labs / Radiology
   255 K/uL
   7.0 g/dL
   117 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   21 mg/dL
   109 mEq/L
   140 mEq/L
   23.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2116-6-25**]  03:40 AM
                             [**2116-6-25**]  04:30 PM
   WBC
   10.2
   Hct
   21.5
   23.4
   Plt
   255
   Cr
   0.8
   Glucose
   117
   Other labs: PT / PTT / INR:15.3/28.2/1.4, ALT / AST:59/86, Alk Phos / T
   Bili:772/2.1, Amylase / Lipase:28/16, Albumin:3.0 g/dL, LDH:129 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   [**6-24**], [**6-25**] BCx - NGTD
   Assessment and Plan
   89 y/o F h/o breast CA s/p L mastectomy, DVT s/p IVC filter placement,
   colon CA  c/b liver mets, a/w recurrent cholangitis s/p ERCP with CBD
   stenting, with persistent fever.
   .
   # Cholangitis
 HD stable, LFT
s not markedly changed
   -cont unasyn (day [**1-9**])
   -cont. trend LFT
   -f/u Cx data
   -will attempt to obtain CT images/report from OSH
   .
   #Fever
 likely [**1-4**] biliary source, but cannot r/o PNA or urinary
   source
   -cont. vanco (day [**2-7**]), unasyn as above
   -consider adding azithro for cov
g atypical resp pathogens if does not
   improve
   -blood, sputum, urine Cx pending
   -defer repeat CT until OSH record reviewed
   .
   #Anemia - chronic microcytic blood-loss anemia [**1-4**] colon CA, +/- ACD;
   Hct stable, no s/sx gross bleeding
   -active T&S
   -x-fuse for Hct<21%
   .
   #HTN
   -may resume outpt antiHTN regimen as now normotensive
   .
   #CAD
   -cont. ASA
   .
   #Hyperlipidemia
   -cont. statin
   .
   #F/E/N
   -replete lytes to keep K>4, Mg>2
   ICU Care
   Nutrition: tolerated clear liquids
 advance as tolerated to full diet
   Glycemic Control:  well-controlled
   Lines:
   22 Gauge - [**2116-6-25**] 02:15 AM
   20 Gauge - [**2116-6-25**] 04:09 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   Communication:  Daughter involved in care
   Code status: Full code
   Disposition: Stable for transfer to floor

2116-06-26 11:34:00 Physician Attending Progress Note
Chief Complaint: rigors
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89F with metastatic colon adenoca presents with rigors, leukocytosis,
   and elevated lfts, presented to the oncology office for 2^nd opinion,
   had rigors in the office and sent to the ed. No s/p ercp with evidency
   of malignant obstruction but no evidence of pus.
   24 Hour Events:
 EKG - At [**2116-6-25**] 09:22 PM
   taken for ventricular bigemny K+ 3.6 repleted
 FEVER - 102.9
F - [**2116-6-25**] 02:00 PM with nausea vomiting; afebrile
   since then.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-25**] 01:00 AM
   Vancomycin - [**2116-6-25**] 02:04 AM
   Ampicillin - [**2116-6-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-6-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-6-26**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 36.3
C (97.3
   HR: 71 (52 - 99) bpm
   BP: 129/45(66) {87/16(39) - 169/82(89)} mmHg
   RR: 22 (13 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    760 mL
                                                                    564 mL
   PO:
                                                                    120 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    640 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    300 mL
   Urine:
                                                                    710 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     50 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   247 K/uL
   70 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.5 mEq/L
   22 mg/dL
   112 mEq/L
   144 mEq/L
   25.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2116-6-25**]  03:40 AM
                             [**2116-6-25**]  04:30 PM
                             [**2116-6-26**]  08:00 AM
   WBC
   10.2
   8.1
   Hct
   21.5
   23.4
   25.0
   Plt
   255
   247
   Cr
   0.8
   0.8
   Glucose
   117
   70
   Other labs: PT / PTT / INR:13.8/26.5/1.2, ALT / AST:54/59, Alk Phos / T
   Bili:774/1.7, Amylase / Lipase:28/16, Albumin:3.0 g/dL, LDH:129 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   89F with colon CA metastatic to the biliary tree by report but unclear
   which imaging studies document this, presents to [**Hospital1 54**] oncologist for a
   second opinion regarding treatment options, found to have high fevers
   and rigors, likely biliary source, presumed cholangitis. S/p ercp pt
   had one episode of fever but overall doing better:
   Fevers and rigors: s/p ercp
   -daily lfts and wbc
   -cont abx for presumed cholangitis
   -gi following
   -continue antibiotis
   metastatic colon ca:
   -will clarify with prior md extent of cancer and imaging
   -will speak with dr [**Last Name (STitle) **] regarding additional imaging and other
   additional studies of needed as well as treatment options
   I was physically present with the resident and fellow team for
   discussion of the patient
s course on this day and I would agree in
   full with the note.  I would add
   Patient with confirmed colon CA with metastatic disease and recurrent
   cholangitis.  She did have rigor yesterday but today has remained with
   resonable hemodynamic stability and in the setting of ABX would be
   considered reasonable for transfer to floor with GI follow up
   evaluation.
   ICU Care
   Nutrition:
   Advance diet as tolerated; tolerated clears
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2116-6-25**] 02:15 AM
   20 Gauge - [**2116-6-25**] 04:09 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes